US05198449
N-(3,4-Difluorophenyl)-α-(4-fluorophenyl)-1-(2-naphthalenylmethyl)-4-piperidinemethanamine dihydrochloride
A mixture of 3.10 g (7.5 mmol) of 4-[[(3,4-difluorophenyl)amino](4-fluorophenyl)methyl]piperidine hydrochloride hydrate, 1.70 g (7.7 mmol) of 2-bromomethylnaphthalene and 5.1 g (60.7 mmol) of sodium bicarbonate in 200 mL of absolute ethanol was stirred at room temperature for 20 h. The solvent was removed in vacuo, and the residue was partitioned between methylene chloride and dilute NaOH. The organic phase was dried (Na2SO4), and the solvent was removed in vacuo. The residue was subjected to flash chromatography (silica gel, elution with 1-4% MeOH in CH2Cl2) to give an oil. This was converted to the HCl salt, and the salt was recrystallized from a mixture of methanol and diethylether to give 1.53 g (38.3%) of the title compound as a crystalline solid, mp 187°-190° C.

reactant | 4-[[(3,4-difluorophenyl)amino](4-fluorophenyl)methyl]piperidine hydrochloride hydrate | 7.5 mmol, 3.10 g | O.Cl.FC=1C=C(C=CC1F)NC(C1CCNCC1)C1=CC=C(C=C1)F
reactant | 2-bromomethylnaphthalene | 7.7 mmol, 1.70 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | sodium bicarbonate | 60.7 mmol, 5.1 g | C([O-])(O)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-(3,4-Difluorophenyl)-α-(4-fluorophenyl)-1-(2-naphthalenylmethyl)-4-piperidinemethanamine dihydrochloride | 1.53 g, 38.3% | Cl.Cl.FC=1C=C(C=CC1F)NC(C1CCN(CC1)CC1=CC2=CC=CC=C2C=C1)C1=CC=C(C=C1)F | InChI=1S/C29H27F3N2.2ClH/c30-25-9-7-22(8-10-25)29(33-26-11-12-27(31)28(32)18-26)23-13-15-34(16-14-23)19-20-5-6-21-3-1-2-4-24(21)17-20;;/h1-12,17-18,23,29,33H,13-16,19H2;2*1H
